US07576077B2
1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]ethanol
27.2 g crude N′-[(3-chlorobenzoyl)oxy]-2-hydroxypropanimidamide was dissolved in ethanol (250 mL) and refluxed for 1 h, followed by addition of 14.0 g (170 mmol) sodium acetate in water (40 mL). After refluxing o.n., cooling to r.t. and addition of water (250 mL) the mixture was concentrated in vacuo to about ½ of its volume, resulting in a precipitate which was filtered off and recrystallized from EA/Hep to yield 6.45 g (25%) of the title compound. 1H NMR: 8.14 (s, 1H), 8.02 (d, 1H), 7.57 (d, 1H), 7.47 (t, 1H), 5.04 -5.14 (m, 1H), 2.51 (d, 1H), 1.67 (d, 3H)

reactant | N′-[(3-chlorobenzoyl)oxy]-2-hydroxypropanimidamide | 27.2 g | ClC=1C=C(C(=O)ON=C(C(C)O)N)C=CC1 | C10H11ClN2O3
reactant | sodium acetate | 170 mmol, 14.0 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 250 mL | C(C)O | C2H6O
solvent | water | 40 mL | O | H2O
solvent | water | 250 mL | O | H2O
product | 1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]ethanol | 6.45 g, 25% | ClC=1C=C(C=CC1)C1=NC(=NO1)C(C)O | C10H9ClN2O2
